US06951879B2
According to the method in example 23, Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester and Diethanolamin were converted to yield 2-[{4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-(2-hydroxy-ethyl)-amino]-ethanol, MS: 405 (MH+, 1Cl).

reactant | Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCOS(=O)(=O)C | C18H18ClNO3S2
reactant | Diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-[{4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-(2-hydroxy-ethyl)-amino]-ethanol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCN(CCO)CCO | C21H25ClN2O2S
